US05245046
To a solution of 0.8 g (3.03 mmoles) of 18-crown-6 in 100 ml of dry ether was added 3.27 g (29.14 mmoles) of potassium tert-butoxide. The mixture was stirred while a solution of 3.75 g (27.75 mmoles) of 5-fluoroindole in 80 ml of ether was added. The stirring was continued for 0.5 hour. Solid was present. Then 3.69 g (29.15 mmoles) of benzyl chloride in 80 ml of ether was added. The mixture was stirred for 28 hours. Water (100 ml) was added. The layers were separated. The aqueous layer was extracted with 100 ml of ether. The combined ether layers were washed with 50 ml of brine and dried over MgSO4. Evaporation of the solvent left 6.95 g of orange oil. The oil was chromatographed on a 600 g column of silica gel. The column was eluted with 30% CH2Cl2 -Skellysolve B and 200 ml fractions were collected. The fractions were assayed by silica gel tlc (1×4") (30% CH2Cl1 -Skellysolve B). Fractions 11-15 were combined giving 0.88 g (14%) of 1-benzyl-5-fluoroindole as a pale yellow oil which contained a small amount of 1,3-dibenzyl-5-fluorindole.

reactant | 18-crown-6 | 3.03 mmoles, 0.8 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium tert-butoxide | 29.14 mmoles, 3.27 g | CC(C)([O-])C.[K+]
reactant | 5-fluoroindole | 27.75 mmoles, 3.75 g | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | benzyl chloride | 29.15 mmoles, 3.69 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 80 ml | CCOCC | C4H10O
solvent | ether | 80 ml | CCOCC | C4H10O
solvent | Water | 100 ml | O | H2O
product | 1-benzyl-5-fluoroindole | 0.88 g, 14% | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)F | C15H12FN
